US08076359B2
Step 1: tert-Butyl (3R,4S)-3-{[cyclopropyl(3-(3-methoxypropyl)-5-{[(trifluoro-methyl)sulfonyl]oxy}benzyl)amino]carbonyl}-4-{4-[2-(2,6-dichloro-4-methylphen-oxy)ethoxy]phenyl}piperidine-1-carboxylate
To a solution of tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]-amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate (1 eq.) from Example 1/Step 2 in DCM (0.1 M) at 0° C. was added triethylamine (2.5 eq.) and trifluoromethanesulfonic anhydride (1.2 eq.). The reaction was stirred at 0° C. for 1 h and then quenched with saturated aqueous NaHCO3 solution. The aqueous layer was extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 10%→30% EtOAc in DCM) to afford the title compound as a colorless oil.

reactant | tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]-amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate | 1 eq. | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)O | C40H50Cl2N2O7
reactant | triethylamine | 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 1.2 eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | tert-Butyl (3R,4S)-3-{[cyclopropyl(3-(3-methoxypropyl)-5-{[(trifluoro-methyl)sulfonyl]oxy}benzyl)amino]carbonyl}-4-{4-[2-(2,6-dichloro-4-methylphen-oxy)ethoxy]phenyl}piperidine-1-carboxylate | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)CCCOC | C41H49Cl2F3N2O9S
